** sch_path: /foss/designs/spike_130/tests/synapsis_t4.sch
**.subckt synapsis_t4
V4 vdd GND 1.8
V5 vtrh GND 0.6
V6 vref GND 1
V7 vss GND 0
Vmeas3 net1 net8 0
.save i(vmeas3)
I3 GND vin_preb 50n
X8 net1 vout_preb rram_cell gap_i=0.5
x9 vdd vdd vdd net8 vin_posb synpCntrl
V1 vin_posb GND 1
x6 vdd vss vout_preb vin_preb vtrh vref v_rew neuron_xin_v2
V2 v_rew GND pulse(0 1.8 5u 1n 1n 1 2)
x2 vdd net3 pre pos nand
x3 vdd net3 net2 not
V8 pre GND pulse(0 1.8 0 1n 1n 0.5u 1u)
V9 pos GND pulse(0 1.8 0 1n 1n 1u 2u)
V10 a GND pulse(0 1.8 0 0.5u 0.5u 1p 1u)
x12 net4 vdd net2 b a conmutator
V12 net4 GND 1
Vmeas1 net5 vin_posb2 0
.save i(vmeas1)
X4 net5 vout_preb2 rram_cell gap_i=0.5
x7 vdd vss vout_preb2 vin_preb2 vtrh vref v_rew neuron_xin_v2
I1 GND vin_preb2 50n
V13 vin_posb2 GND 1
x1 vdd vss viy vix vtrh2 vref vss neuron_xin_v2
x5 vdd vss viz net7 vtrh2 vref vss neuron_xin_v2
I2 GND vix 100n
X10 net7 viy rram_cell gap_i=0.5
V3 vtrh2 GND 0.6
x11 vdd vss viy vix2 vtrh2 vref vss neuron_xin_v2
I4 GND vix2 0
x13 vdd vss viy vix3 vtrh2 vref vss neuron_xin_v2
I5 GND vix3 0
**** begin user architecture code


.control
 tran 1n 10u uic


* wrdata synapsis_t4.txt V(vout_preb2) V(vin_posb2) i(vmeas1)
*		       +V(vout_preb) V(vin_posb) i(vmeas3)
 write synapsis_t4.raw
* set appendwrite

.endc
.save all


.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt

.subckt rram_cell BE TE gap_i=0.1
N1 BE TE rram_model
.model rram_model rram gap_initial={gap_i}
.ends rram_cell

.control
pre_osdi /foss/designs/spike_130/designs/prubs/rram.osdi
.endc

**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_synpCntrl/synpCntrl.sym # of pins=5
** sym_path: /foss/designs/spike_130/designs/subcells/core_synpCntrl/synpCntrl.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_synpCntrl/synpCntrl.sch
.subckt synpCntrl vdd pre pos a b
*.opin pre
*.opin pos
*.iopin a
*.iopin b
*.iopin vdd
x15 net1 b a vdd switch
x1 vdd net2 pre pos nand
x2 vdd net2 net1 not
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/core_xin_neuron_v2/neuron_xin_v2.sym # of pins=7
** sym_path: /foss/designs/spike_130/designs/core_xin_neuron_v2/neuron_xin_v2.sym
** sch_path: /foss/designs/spike_130/designs/core_xin_neuron_v2/neuron_xin_v2.sch
.subckt neuron_xin_v2 vdd vss vout vin vtrh vref reward
*.iopin vdd
*.ipin vin
*.opin vout
*.iopin vss
*.ipin vtrh
*.ipin vref
*.ipin reward
x5 vref vdd phi_fire net1 vmem conmutator
x4 vmem vdd phi_fire vout vref conmutator
x6 GND vdd phi_fire vicom_p vmem conmutator
x7 phi_fire vin vmem vdd switch
x2 vdd vtrh vo_com vicom_p GND ota_1_stage
XC4 vin net1 sky130_fd_pr__cap_mim_m3_2 W=4 L=4 MF=1 m=1
x1 vdd vin vmem vspike GND ota_2_stage
XM2 vmem net2 vin GND sky130_fd_pr__nfet_01v8 L=5 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
x3 reward vss vdd vref vo_com vspike phi_fire pulseReward2
V2 net2 GND 0.75
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_nand/nand.sym # of pins=4
** sym_path: /foss/designs/spike_130/designs/subcells/core_nand/nand.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_nand/nand.sch
.subckt nand vdd out A B
*.iopin vdd
*.opin out
*.ipin A
*.ipin B
XM4 net1 B GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 out B vdd vdd sky130_fd_pr__pfet_01v8_lvt L=0.35 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 out A vdd vdd sky130_fd_pr__pfet_01v8_lvt L=0.35 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 out A net1 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_not/not.sym # of pins=3
** sym_path: /foss/designs/spike_130/designs/subcells/core_not/not.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_not/not.sch
.subckt not vdd in out
*.ipin in
*.opin out
*.iopin vdd
XM10 out in vdd vdd sky130_fd_pr__pfet_01v8_lvt L=0.35 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 out in GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_conmutator/conmutator.sym # of pins=5
** sym_path: /foss/designs/spike_130/designs/subcells/core_conmutator/conmutator.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_conmutator/conmutator.sch
.subckt conmutator in2 vdd cntrl out in1
*.ipin cntrl
*.ipin in2
*.ipin in1
*.iopin vdd
*.opin out
x1 vdd cntrl net1 not
XM5 out cntrl in2 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM10 out net1 in2 vdd sky130_fd_pr__pfet_01v8_lvt L=0.35 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 out net1 in1 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 out cntrl in1 vdd sky130_fd_pr__pfet_01v8_lvt L=0.35 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_switch/switch.sym # of pins=4
** sym_path: /foss/designs/spike_130/designs/subcells/core_switch/switch.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_switch/switch.sch
.subckt switch cntrl in out vdd
*.ipin cntrl
*.ipin in
*.iopin vdd
*.opin out
XM3 out cntrl in GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 out net1 in vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
x1 vdd cntrl net1 not
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_ota_1stage/ota_1_stage.sym # of pins=5
** sym_path: /foss/designs/spike_130/designs/subcells/core_ota_1stage/ota_1_stage.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_ota_1stage/ota_1_stage.sch
.subckt ota_1_stage vdd vn vout vp vss
*.iopin vdd
*.ipin vp
*.opin vout
*.ipin vn
*.iopin vss
XM1 net1 vp net3 GND sky130_fd_pr__nfet_01v8 L=0.15 W=4.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 net1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 vout net1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 vout vn net3 GND sky130_fd_pr__nfet_01v8 L=0.15 W=4.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net3 net2 vss GND sky130_fd_pr__nfet_01v8 L=0.45 W=5.4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 net2 net2 vss GND sky130_fd_pr__nfet_01v8 L=0.45 W=5.4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM9 net2 net2 vdd vdd sky130_fd_pr__pfet_01v8 L=0.150 W=0.55 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_ota_2stage/ota_2_stage.sym # of pins=5
** sym_path: /foss/designs/spike_130/designs/subcells/core_ota_2stage/ota_2_stage.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_ota_2stage/ota_2_stage.sch
.subckt ota_2_stage vdd vn vout vp vss
*.iopin vdd
*.ipin vp
*.opin vout
*.ipin vn
*.iopin vss
XM1 net1 vn net4 GND sky130_fd_pr__nfet_01v8 L=0.15 W=3.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 net1 vdd vdd sky130_fd_pr__pfet_01v8 L=.3 W=1.8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=6 m=6
XM4 net2 net1 vdd vdd sky130_fd_pr__pfet_01v8 L=.3 W=1.8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=6 m=6
XM2 net2 vp net4 GND sky130_fd_pr__nfet_01v8 L=0.15 W=3.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net4 net3 vss GND sky130_fd_pr__nfet_01v8 L=1.5 W=1.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 net3 net3 vss GND sky130_fd_pr__nfet_01v8 L=0.15 W=2.7 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 vout net2 vdd vdd sky130_fd_pr__pfet_01v8 L=.15 W=23.25 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=6 m=6
XM7 vout net3 vss GND sky130_fd_pr__nfet_01v8 L=0.15 W=6.9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM9 net3 net3 vdd vdd sky130_fd_pr__pfet_01v8 L=0.150 W=0.55 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XC1 net2 vout sky130_fd_pr__cap_mim_m3_2 W=1 L=1 MF=1 m=1
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_pulseReward2/pulseReward2.sym # of pins=7
** sym_path: /foss/designs/spike_130/designs/subcells/core_pulseReward2/pulseReward2.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_pulseReward2/pulseReward2.sch
.subckt pulseReward2 reward vss vdd vref vin vspike phi_fire
*.opin vspike
*.iopin vdd
*.opin phi_fire
*.ipin vin
*.ipin vref
*.iopin vss
*.ipin reward
x19 vdd phi1 vin net2 net1 monostable
x21 vdd phi1 phi2 phi_int nor
x22 vdd phi_int phi_fire not
V6 vspike_down GND 0
V7 vspike_up GND 1.4
XC2 net1 net2 sky130_fd_pr__cap_mim_m3_2 W=4 L=4 MF=1 m=1
XC4 GND vrefrac sky130_fd_pr__cap_mim_m3_2 W=4 L=4 MF=1 m=1
XM7 vrefrac net5 net3 GND sky130_fd_pr__nfet_01v8 L=5 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
x1 vspike_up_plus vdd reward net4 vspike_up conmutator
V8 vspike_up_plus GND 1.8
x2 phi1 vspike net4 vdd switch
x3 vdd vref phi2b vrefrac GND ota_1_stage
x4 phi2 vspike vrefrac vdd switch
x5 phi_int vspike vref vdd switch
x6 phi1 vrefrac vspike_down vdd switch
x7 phi2 net3 vdd vdd switch
x9 vdd phi1 phi2b phi2 xnor
XM5 net2 vr GND GND sky130_fd_pr__nfet_01v8 L=5 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
V1 vr GND 0.8
V2 net5 GND 1.7
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_monostable/monostable.sym # of pins=5
** sym_path: /foss/designs/spike_130/designs/subcells/core_monostable/monostable.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_monostable/monostable.sch
.subckt monostable vdd out trigger in2 in1
*.iopin vdd
*.ipin trigger
*.ipin in1
*.ipin in2
*.opin out
x1 vdd in2 net1 not
x2 vdd net1 out not
x3 vdd in1 net1 trigger nand
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_nor/nor.sym # of pins=4
** sym_path: /foss/designs/spike_130/designs/subcells/core_nor/nor.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_nor/nor.sch
.subckt nor vdd A B out
*.ipin A
*.ipin B
*.iopin vdd
*.opin out
XM3 out A GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 out B GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM11 net1 A vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 out B net1 vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /foss/designs/spike_130/designs/subcells/core_xnor/xnor.sym # of pins=4
** sym_path: /foss/designs/spike_130/designs/subcells/core_xnor/xnor.sym
** sch_path: /foss/designs/spike_130/designs/subcells/core_xnor/xnor.sch
.subckt xnor vdd A B vout
*.ipin A
*.ipin B
*.iopin vdd
*.opin vout
XM5 net1 A vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 vout B net1 vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 vout B A GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM9 vout A B GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.end
